US04994486
Step 10: [1R,3S] 1-Aminomethyl-3,4-dihydro-5-hydroxy-6-methoxy-3-phenyl-1H-2-benzopyran hydrochloride
A solution of 940 mg (2.28 mmol) of [1R,3S] 1-aminomethyl-5-benzyloxy-3,4-dihydro--6-methoxy-3-phenyl-1H-2-benzopyran hydrochloride, from Step 9, in 500 mL of methanol was treated with 500 mg of 10% palladium on carbon and the resultant mixture was shaken under a hydrogen atmosphere for 24 h. The reaction mixture was diluted with ethyl acetate and filtered through Celite filter aid. The filtrate was concentrated in vacuo to give an off-white solid which was crystallized from methanol/methylene chloride/ether to give 488 mg (66% yield) of the title compound, m.p. 234° C.; MS DCl-NH3M/Z: 286 (M+H)+. Analysis calculated for C17H20ClNO3 +0.25 CH2Cl2 : C, 60.40; H, 6.02; N, 4.08. Found: C, 60.07; H, 5.97; N, 4.03.

reactant | [1R,3S] 1-aminomethyl-5-benzyloxy-3,4-dihydro--6-methoxy-3-phenyl-1H-2-benzopyran hydrochloride | 2.28 mmol, 940 mg | Cl.NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2OCC2=CC=CC=C2)OC)C2=CC=CC=C2
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1R,3S] 1-Aminomethyl-3,4-dihydro-5-hydroxy-6-methoxy-3-phenyl-1H-2-benzopyran hydrochloride | 488 mg, 66% yield | Cl.NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)OC)C2=CC=CC=C2 | InChI=1S/C17H19NO3.ClH/c1-20-14-8-7-12-13(17(14)19)9-15(21-16(12)10-18)11-5-3-2-4-6-11;/h2-8,15-16,19H,9-10,18H2,1H3;1H/t15-,16-;/m0./s1
